US05965559
Using an analogous procedure to that described in Example 1, 2-[4-(4-pyridyl)piperazin-1-yl]acetyl chloride was reacted with N-(3-aminopropyl)naphthalene-2-sulphonamide to give N-[3-(2-naphthalenesulphonamido)propyl]-2-[4-(4-pyridyl)piperazin-1-yl]acetamide in 34% yield;

reactant | 2-[4-(4-pyridyl)piperazin-1-yl]acetyl chloride | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)Cl | C11H14ClN3O
reactant | N-(3-aminopropyl)naphthalene-2-sulphonamide | NCCCNS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C13H16N2O2S
product | N-[3-(2-naphthalenesulphonamido)propyl]-2-[4-(4-pyridyl)piperazin-1-yl]acetamide | 34% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCCCNC(CN1CCN(CC1)C1=CC=NC=C1)=O | C24H29N5O3S
